US04346088
4-(4-Chloro-3-dipropylsulfamoylphenyl)-3-methyl-2-(2,3-dimethylphenyl-imino)-4-thiazoline hydrobromide
Obtained by a procedure analogous to that indicated in Example 1(b), from 4-(4-chloro-3-dipropylsulfamoylphenyl)-3-methyl-2-(2,3-dimethylphenyl-imino)thiazolidin-4-ol hydrobromide by refluxing in glacial acetic acid, subsequently evaporating and crystallizing the viscous residue under water. Colorless crystals from methanol/ether; melting point 210°-212°.

reactant | 4-(4-chloro-3-dipropylsulfamoylphenyl)-3-methyl-2-(2,3-dimethylphenyl-imino)thiazolidin-4-ol hydrobromide | Br.ClC1=C(C=C(C=C1)C1(N(C(SC1)=NC1=C(C(=CC=C1)C)C)C)O)S(N(CCC)CCC)(=O)=O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-(4-Chloro-3-dipropylsulfamoylphenyl)-3-methyl-2-(2,3-dimethylphenyl-imino)-4-thiazoline hydrobromide | Br.ClC1=C(C=C(C=C1)C=1N(C(SC1)=NC1=C(C(=CC=C1)C)C)C)S(N(CCC)CCC)(=O)=O | InChI=1S/C24H30ClN3O2S2.BrH/c1-6-13-28(14-7-2)32(29,30)23-15-19(11-12-20(23)25)22-16-31-24(27(22)5)26-21-10-8-9-17(3)18(21)4;/h8-12,15-16H,6-7,13-14H2,1-5H3;1H
